US07399759B2
3-[6-(4-Oxo-7-trifluoromethyl-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionic acid
A mixture of tert-butyl 3-[6-(4-oxo-7-trifluoromethyl-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate (0.35 g, 0.8 mmol) and trifluoroacetic acid (5.0 ml) was stirred at 0° C. for 2 hrs. The reaction mixture was concentrated under reduced pressure and combined with diisopropyl ether to precipitate crystals, which were collected by filtration and dried to give the titled compound (0.27 g, 88%).

reactant | tert-butyl 3-[6-(4-oxo-7-trifluoromethyl-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate | 0.8 mmol, 0.35 g | O=C1N=C(SC2=C1C=CC(=C2)C(F)(F)F)C2=CC=CC(=N2)CCC(=O)OC(C)(C)C | C21H19F3N2O3S
reactant | trifluoroacetic acid | 5.0 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[6-(4-Oxo-7-trifluoromethyl-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionic acid | 0.27 g, 88% | O=C1N=C(SC2=C1C=CC(=C2)C(F)(F)F)C2=CC=CC(=N2)CCC(=O)O | C17H11F3N2O3S
